US04785010
1-Cyanomethyl-2-(phthalimido-methyl)-5-methyl-pyrrole
10.4 g (0.04 mol) of 6-phthalimido-2,5-hexanedione, 6.2 g (0.04 mol) of aminoacetonitrile sulphate and 6.8 g (0.08 mol) of sodium acetate are stirred in 200 ml of ethylene glycol dimethyl ether at 80° C. for 16 hours and the mixture is worked up as in Example 27.

reactant | 6-phthalimido-2,5-hexanedione | 0.04 mol, 10.4 g | C1(C=2C(C(N1CC(CCC(C)=O)=O)=O)=CC=CC2)=O | C14H13NO4
reactant | aminoacetonitrile sulphate | 0.04 mol, 6.2 g | S(=O)(=O)(O)O.NCC#N
reactant | sodium acetate | 0.08 mol, 6.8 g | C(C)(=O)[O-].[Na+]
solvent | ethylene glycol dimethyl ether | 200 ml | COCCOC | C4H10O2
product | 1-Cyanomethyl-2-(phthalimido-methyl)-5-methyl-pyrrole | C(#N)CN1C(=CC=C1C)CN1C(C=2C(C1=O)=CC=CC2)=O | C16H13N3O2
